US08022062B2
3-tert-Butoxycarbonyl-7-chloro-6-(4-chlorocarbonyl-3-fluorobenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
To a solution of 3-tert-butoxycarbonyl-6-(4-carboxy-3-fluoro-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.95 g, 4.21 mmol) in DCM (20 mL) at 0° C. under nitrogen, add three drops of DMF and oxalyl chloride (1.06 g, 8.41 mmol). Stir for 2 h and concentrate in vacuo to afford the desired intermediate as a yellow oil (1.93 g, 95%).

reactant | 3-tert-butoxycarbonyl-6-(4-carboxy-3-fluoro-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 4.21 mmol, 1.95 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC(=C(C=C2)C(=O)O)F | C23H25ClFNO4S
reactant | oxalyl chloride | 8.41 mmol, 1.06 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | three drops | CN(C)C=O | C3H7NO
product | 3-tert-Butoxycarbonyl-7-chloro-6-(4-chlorocarbonyl-3-fluorobenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.93 g, 95% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC(=C(C=C2)C(=O)Cl)F | C23H24Cl2FNO3S
